US04110536
5-(Indol-3-yl)hydantoin
A mixture of indole-3-carboxaldehyde (43.6 g, 0.3 mole), KCN (29.3 g, 0.45 mole), (NH4)2CO3 (144 g, 1.5 mole), 250 ml of C2H5OH, 250 ml of H2O and 200 ml of DMF was warmed with stirring at 70°-80° for 16 hours. The dark solution was filtered, cooled and acidified with concentrated HCl. The solid was collected, dissolved in dilute NaOH, filtered and acidified with dilute HCl. The solid was collected and recrystallized from aqueous methanol, yield 28.5 g, mp 229°-30°.

reactant | indole-3-carboxaldehyde | 0.3 mole, 43.6 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | KCN | 0.45 mole, 29.3 g | [C-]#N.[K+]
reactant | C2H5OH | 250 ml | C(C)O | C2H6O
reactant | H2O | 250 ml | O | H2O
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 5-(Indol-3-yl)hydantoin | N1C=C(C2=CC=CC=C12)C1C(NC(N1)=O)=O | C11H9N3O2
